US06949579B2
N-(5-bromo-7-fluoro-6-morpholino-1H-indazol-3-yl)butanamide
A solution of 213 mg of sodium nitrite in 9 cm3 of water is added dropwise to a suspension, cooled to 5° C., of 900 mg of N-(5-amino-7-fluoro-6-morpholino-1H-indazol-3-yl)butanamide, prepared as previously, in 9 cm3 of water and 0.94 cm3 of 48% hydrobromic acid, and the mixture is stirred at 0° C. This suspension is added portionwise to a refluxing solution of 482 mg of cuprous bromide, 4.5 cm3 of water and 4.5 cm3 of 48% hydrobromic acid. Refluxing is continued for 45 minutes and the reaction medium is then filtered through a sinter funnel, dissolved in 75 cm3 of tetrahydrofuran and purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 15-40 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 10 cm3 of ethyl acetate, filtered off and washed with 2×5 cm3 of ethyl acetate and with 20 cm3 of diisopropyl ether. After filtration and drying (90 Pa; 45° C.), 60 mg of N-(5-bromo-7-fluoro-6-morpholino-1H-indazol-3-yl)butanamide are obtained in the form of white crystals melting at 240° C.

reactant | sodium nitrite | 213 mg | N(=O)[O-].[Na+]
reactant | N-(5-amino-7-fluoro-6-morpholino-1H-indazol-3-yl)butanamide | 900 mg | NC=1C=C2C(=NNC2=C(C1N1CCOCC1)F)NC(CCC)=O | C15H20FN5O2
reactant | hydrobromic acid | 0.94 cm3 | Br | BrH
reactant | hydrobromic acid | 4.5 cm3 | Br | BrH
solvent | water | 9 cm3 | O | H2O
solvent | water | 9 cm3 | O | H2O
solvent | water | 4.5 cm3 | O | H2O
product | N-(5-bromo-7-fluoro-6-morpholino-1H-indazol-3-yl)butanamide | BrC=1C=C2C(=NNC2=C(C1N1CCOCC1)F)NC(CCC)=O | C15H18BrFN4O2
